US05612356
Ethyl 4-[3-(3-formyl-5,6,7,8-tetrahydro-5,5,8,8tetramethyl-2-naphthoxy)-1-propynyl]benzoate
0.71 g of potassium carbonate and 1.0 g of ethyl 4-(3-bromo-1-propynyl)benzoate were added to 20 ml of a solution of 0.80 g of 3-formyl-5,6,7,8-tetrahydro-2-hydroxy-5,5,8,8-tetramethylnaphthalene in anhydrous N,N-dimethyl formamide at room temperature. The obtained mixture was stirred at 50° C. for 30 minutes, followed by the addition thereto of 20 ml of water. The obtained mixture was extracted with ethyl acetate. The organic phase was washed with a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was purified by silica gel chromatography (developer: 20% diethyl ether/n-hexane) to give 0.87 g of the title compound as a pale-yellow solid.

reactant | potassium carbonate | 0.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-(3-bromo-1-propynyl)benzoate | 1.0 g | BrCC#CC1=CC=C(C(=O)OCC)C=C1 | C12H11BrO2
reactant | 3-formyl-5,6,7,8-tetrahydro-2-hydroxy-5,5,8,8-tetramethylnaphthalene | 0.80 g | C(=O)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)O | C15H20O2
reactant | water | 20 ml | O | H2O
solvent | N,N-dimethyl formamide | CN(C=O)C | C3H7NO
product | Ethyl 4-[3-(3-formyl-5,6,7,8-tetrahydro-5,5,8,8tetramethyl-2-naphthoxy)-1-propynyl]benzoate | 0.87 g | C(=O)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OCC#CC1=CC=C(C(=O)OCC)C=C1 | C27H30O4
